US04174317
(A) N,N-Dimethyl-N'-(3,4-methylenedioxybenzylidene)-1,3-propanediamine
Interaction of 50 g of piperonal and 34 g of 3-dimethylaminopropylamine in 240 ml. of benzene following the procedure described in Example 1 yields 58.6 g of the product as an oil, boiling point 131°-136° C. at 0.2-0.3 mm. of Hg.

reactant | piperonal | 50 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 3-dimethylaminopropylamine | 34 g | CN(CCCN)C | C5H14N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-Dimethyl-N'-(3,4-methylenedioxybenzylidene)-1,3-propanediamine | 58.6 g | CN(CCCN=CC1=CC2=C(C=C1)OCO2)C | C13H18N2O2
